US05079260
A solution of 1-fluorenecarboxylic acid (10.0 g, 47.6 mmol) in THF (150 mL) at 0° C. was charged With a 1M solution of BH3 -THF complex in THF (80 mL, 80 mmol). The reaction mixture was stored overnight at room temperature then quenched with 30 mL of 10% AcOH in methanol. After dilution with water (100 mL), the water layer was extracted with ethyl acetate (3×50 mL). The combined organic extracts were washed with 10% potassium carbonate solution, water, brine, dried over magnesium sulfate and evaporated. The residue (white crystals) was washed with ether and dried to afford 1-fluorenemethanol (6.4 g, 68.5%).

reactant | 1-fluorenecarboxylic acid | 47.6 mmol, 10.0 g | C1(=CC=CC=2C3=CC=CC=C3CC12)C(=O)O | C14H10O2
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 80 mmol, 80 mL | C1CCOC1 | C4H8O
product | 1-fluorenemethanol | 6.4 g, 68.5% | C1(=CC=CC=2C3=CC=CC=C3CC12)CO | C14H12O
